* source I-COMPARADOR-01
M_M2         ND+ IN+ NDBIAS 0 CMOSN  
+ L=.2u  
+ W=.4u         
V_VREF         IN+ N398131 1
M_M3         ND- ND- N39211 N39211 CMOSP  
+ L=.2u  
+ W=.6u         
M_M4         ND+ ND- N39211 N39211 CMOSP  
+ L=.2u  
+ W=.6u         
M_M5         NDBIAS VBIAS 0 0 CMOSN  
+ L=.2u  
+ W=.6u         
C_C1         0 N749310  1n  
V_VQ+         N398131 0 .2
M_U2_M5         N75001 NOUT N39211 N39211 CMOSP  
+ L=.18u  
+ W=.2u         
M_U2_M6         N75001 NOUT 0 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_M6         NOUT ND+ N39211 N39211 CMOSP  
+ L=.2u  
+ W=.8u         
V_VBIAS         VBIAS 0 .33
M_M7         NOUT VBIAS 0 0 CMOSN  
+ L=.2u  
+ W=.4u         
V_VQ-         N43113 0 .2
V_VIN         IN- N43113 1.5
R_R1         N75001 N749310  500k  
M_M1         ND- IN- NDBIAS 0 CMOSN  
+ L=.2u  
+ W=.4u         
V_VDD         N39211 0 3.3
